US07109219B2
6-Amino-4-(1H-5-indolylamino)pyrimidine
A 7N ammonia in methanol (60 ml) was added to 6-chloro-4-(1H-5-indolylamino)pyrimidine (2.455 g, 10 mmol); and the reaction mixture was heated in a sealed tube at 130° C. for 90 hours. The solvent was distilled off under reduced pressure; the residue was purified by silica gel column chromatography (eluent; ethyl acetate:tetrahydrofuran=1:1); diethyl ether was added to crystallize; and the crystals were filtered off, washed with diethyl ether, and dried under aeration to yield the title compound (1.563 g, 6.9 mmol, 69%) as pale brown crystals.

reactant | ammonia | 7N | N | H3N
reactant | 6-chloro-4-(1H-5-indolylamino)pyrimidine | 10 mmol, 2.455 g | ClC1=CC(=NC=N1)NC=1C=C2C=CNC2=CC1 | C12H9ClN4
solvent | methanol | 60 ml | CO | CH4O
product | 6-Amino-4-(1H-5-indolylamino)pyrimidine | 6.9 mmol, 1.563 g, 69% | NC1=CC(=NC=N1)NC=1C=C2C=CNC2=CC1 | C12H11N5
